US05889012
cis-4-(1-Methylcyclopropyl)cyclohexylamine
11.0 g (72.3 mmol) of 4-(1 -methylcyclopropyl)cyclohexanone were stirred for 24 hours with 7.0 g (410 mmol) of NH3 dissolved in 120 ml of methanol, in the presence of 3.0 g of Rh/C (5%) at a hydrogen pressure of 20 bar and at a reaction temperature of 50° C. The reaction solution was filtered and the filtrate was concentrated. 9.8 g (88% of theory) were obtained of a colorless oil which was reacted without further purification.

reactant | 4-(1 -methylcyclopropyl)cyclohexanone | 72.3 mmol, 11.0 g | CC1(CC1)C1CCC(CC1)=O | C10H16O
reactant | NH3 | 410 mmol, 7.0 g | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 ml | CO | CH4O
catalyst | Rh/C | 3.0 g | [Rh] | Rh
product | cis-4-(1-Methylcyclopropyl)cyclohexylamine | CC1(CC1)[C@H]1CC[C@H](CC1)N | C10H19N
